US05223513
To a mixture of ethyl 6-chloro-4-(2-chlorophenyl)-1,2-dihydro-2-oxo-3-quinolinecarboxylate(1.81 g), potassium carbonate powder (0.7 g), and N,N-dimethylformamide (DMF) (20 ml) was dropwise added methyl iodide (0.37 g) under stirring. The mixture was stirred for 2.5 hours, diluted with water and then extracted with ethyl acetate. The extract was washed with water, dried (MgSO4) and distilled to remove the solvent. The residue was crystallized with isopropyl ether to obtain ethyl 6-chloro-4-(2-chlorophenyl)-1,2-dihydro-1-methyl-2-oxo-3-quinolinecarboxylate. Recrystallization from ethanol gave colorless prisms. mp 139°-140° C.

reactant | ethyl 6-chloro-4-(2-chlorophenyl)-1,2-dihydro-2-oxo-3-quinolinecarboxylate | 1.81 g | ClC=1C=C2C(=C(C(NC2=CC1)=O)C(=O)OCC)C1=C(C=CC=C1)Cl | C18H13Cl2NO3
reactant | potassium carbonate | 0.7 g | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
reactant | methyl iodide | 0.37 g | CI | CH3I
solvent | water | O | H2O
product | ethyl 6-chloro-4-(2-chlorophenyl)-1,2-dihydro-1-methyl-2-oxo-3-quinolinecarboxylate | ClC=1C=C2C(=C(C(N(C2=CC1)C)=O)C(=O)OCC)C1=C(C=CC=C1)Cl | C19H15Cl2NO3
